US08975417B2
Step 14.1: 3-fluoro-1-methyl-5-nitropyridin-2(1H)-one
To a stirred suspension of 3-fluoro-2-hydroxy-5-nitropyridine (2.03 g, 12.84 mmol) and K2CO3 (3.55 g, 25.7 mmol) in DMF (20 mL) under Ar was added MeI (1.20 mL, 19.26 mmol). The reaction mixture was stirred for 1 hr at rt, concentrated, diluted with water (100 mL), and extracted with CH2Cl2. (2×150 mL) The combined organic layers were washed with water, dried over Na2SO4 and evaporated to afford the crude title product (2.06 g, 11.97 mmol, 93% yield) as a yellow solid. tR: 2.22 min (HPLC 1); tR: 0.49 min (LC-MS 2); ESI-MS: 173 [M+H]+ (LC-MS 2).

reactant | 3-fluoro-2-hydroxy-5-nitropyridine | 12.84 mmol, 2.03 g | FC=1C(=NC=C(C1)[N+](=O)[O-])O | C5H3FN2O3
reactant | K2CO3 | 25.7 mmol, 3.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 19.26 mmol, 1.20 mL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-1-methyl-5-nitropyridin-2(1H)-one | 11.97 mmol, 2.06 g, 93% yield | FC=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C6H5FN2O3
